US07446222B2
Ethyl 2-bromo-4-chlorobenzoate
A mixture of 2-bromo-4-chlorobenzoic acid (235 mg, 1 mmol) and thionyl chloride (238 mg, 146 ul, 2 mmol) in toluene (5 ml) was heated at 90° C. for 1 hour. The reaction mixture was cooled and the solvent evaporated. The residue was dissolved in THF (1 ml) and treated with ethanol (1 ml). The solution was evaporated to dryness leaving the title compound as a yellow oil 263 mg 100%

reactant | 2-bromo-4-chlorobenzoic acid | 1 mmol, 235 mg | BrC1=C(C(=O)O)C=CC(=C1)Cl | C7H4BrClO2
reactant | thionyl chloride | 2 mmol, 146 ul, 238 mg | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-bromo-4-chlorobenzoate | 263 mg, 100% | BrC1=C(C(=O)OCC)C=CC(=C1)Cl | C9H8BrClO2
